US07888364B2
Procedure F was performed using 100 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 84 mg of piperazine-2-one in 1 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(3-oxopiperazin-1-yl)nicotinamide. MS (Q1) 422.3 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 100 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | piperazine-2-one | 84 mg | N1C(CNCC1)=O | C4H8N2O
solvent | BuOH | 1 mL | C(CCC)O | C4H10O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(3-oxopiperazin-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1CC(NCC1)=O)C)=O)C1=NC=CC=C1 | C22H20ClN5O2
